US06395897B1
2-(S)-(4-Dimethylaminobenzenesulfonylamino)-4-methylpentanoic acid (1-(S)-cyano-3-phenylpropyl) amide
Cyanuric chloride (33 mg, 0.18 mmol) was added to a solution of N-[N-((4-dimethylaminophenyl)sulfonyl)-L-leucinyl]-L-homophenylalaninamide (80 mg, 0.18 mmol) in DMF (2 mL) at 0° C. After stirring for 2h, the reaction was quenched by addition of satd. NaHCO3, filtered, diluted with EtOAc, washed sequentially with H2O (×5), brine, dried over Na2SO4, and concentrated giving a yellow foam. The crude residue was fractionated by preparative HPLC (65% AcCN/H2O/0.1% TFA) giving the title compound (47 mg, 57%) as a white solid, m.p. 46-48° C. 1H NMR (400 MHz, CDCl3): δ: 7.74(2H, d, J=9), 7.37-7.34 (2H, m), 7.30-7.26 (2H, m), 7.23-7.21 (3H, m), 6.79 (1H, d, J=8.5), 4.91 (1H, bs), 4.70 (1H, ddd, J=8, 8, 8), 3.68-3.73 (1H, m), 3.06 (3H, s), 2.84-2.76 (2H, m), 2.16-2.09(2H, m), 1.63-1.56 (2H, m), 1.42-1.37 (1H, m), 0.88 (3H, d, J=6), 0.71 (3H, d, J=6).

reactant | Cyanuric chloride | 0.18 mmol, 33 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | N-[N-((4-dimethylaminophenyl)sulfonyl)-L-leucinyl]-L-homophenylalaninamide | 0.18 mmol, 80 mg | CN(C1=CC=C(C=C1)S(=O)(=O)N[C@@H](CC(C)C)C(=O)NC([C@@H](N)CCC1=CC=CC=C1)=O)C | C24H34N4O4S
reactant | AcCN H2O | C(=O)(C)C#N.O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(S)-(4-Dimethylaminobenzenesulfonylamino)-4-methylpentanoic acid (1-(S)-cyano-3-phenylpropyl) amide | 47 mg, 57% | C(#N)[C@H](CCC1=CC=CC=C1)NC([C@H](CC(C)C)NS(=O)(=O)C1=CC=C(C=C1)N(C)C)=O | C24H32N4O3S
